Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine / shrimp / lactose
 
Attending: ___.
 
Chief Complaint:
Bilateral thyroid nodules
 
Major Surgical or Invasive Procedure:
Total Thyroidectomy and left inferior parathyroidectomy 

 
Family History:
Per patient strong family history of cancer: skin,uterus, 
breast, pancreas. Father died of pancreatic cancer in his ___. 
Breast cancer diagnosed in several relatives in their ___. No 
known FH colon, ovarian cancer. No FH of DM
 
Physical Exam:
GEN: AOx3, NAD
HEENT: NCAT, EOMI, anicteric. Soft, supple. No evidence of
hematoma.
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, non tender, non distended
EXT: WWP, no CCE
Incision: c/d/i

 
Pertinent Results:
___ 07:02AM BLOOD Calcium-8.9
___ 04:33PM BLOOD Calcium-9.4
___ 07:02AM BLOOD PTH-10*
___ 04:40PM BLOOD PTH-14*
 
Brief Hospital Course:
___ with history of bilateral thyroid nodules, now s/p total 
thyroidectomy and left inferior parathyroidectomy. She tolerated 
the procedure well; reader referred to operative report dictated 
separately. She was transferred to PACU and admitted 
postoperatively to the floor for observation overnight. Her 
hospital course was stable. Postoperatively, her voice was 
slight hoarse. She had no dyspnea and vitals were stable. She 
had bouts of nausea which improved with Zofran IV as needed. Her 
diet was appropriately advanced and tolerated well and she 
voided and ambulated. Her Calcium level and PTH levels were 
trended. She had no perioral or extremity numbness or tingling 
or any symptoms of hypocalcemia. Postoperatively, she was 
started on thyroid hormone replacement. Her surgical site had no 
evidence of infection or hematoma.
At the time of discharge home, POD 1, the patient was tolerating 
regular diet, ambulating, on oral medications, and appropriate 
for completing her recovery at home. 

 
Medications on Admission:
Medications:
ERGOCALCIFEROL (VITAMIN D2) - ergocalciferol (vitamin D2) 50,000
unit capsule. 1 capsule(s) by mouth once weekly
LIDOCAINE - lidocaine 5 % topical ointment. quarter sized amount
twice a day as needed for back pain
RANITIDINE HCL - ranitidine 150 mg capsule. 1 capsule(s) by 
mouth
once a day
SUMATRIPTAN SUCCINATE - sumatriptan 25 mg tablet. 1 tablet(s) by
mouth daily as needed for migraine at first sign of migraine
headache
Medications - OTC
BIFIDOBACTERIUM INFANTIS [ALIGN] - Align 4 mg capsule. 1
capsule(s) by mouth once daily or as directed on label
directions. -  (OTC)
CALCIUM CITRATE-VITAMIN D3 [CALCIUM CITRATE + D] - Calcium
Citrate + D 315 mg-200 unit tablet. 2 tablet(s) by mouth twice
daily
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
2,000
unit capsule. capsule(s) by mouth DAILY -  (___)

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Levothyroxine Sodium 125 mcg PO DAILY 
RX *levothyroxine 125 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
3.  Calcium Carbonate 500 mg PO TID  
4.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral Thyroid Nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ overnight following your surgery. You 
did well postoperatively and were discharged home once you were 
eating, on oral medications, walking, and completing daily 
activities per normal. 

Medications: 
You will be discharged on thyroid hormone replacement and 
calcium supplement. For pain control you may take acetaminophen 
(Tylenol) as prescribed. You may resume all your regular home 
medication.

Symptoms of Low calcium: Please monitor for symptoms of low 
calcium such as numbness and tingling around your mouth, 
fingertips or legs. If you experience any of these symptoms 
please call Dr. ___ and if you have severe symptoms go 
to emergency room.

Wound care:
You may shower normally. Allow warm soapy water to run over the 
wound, rinse and pat dry gently. There is no need to keep a 
dressing over the wound. Do not apply creams or ointments. Do 
not submerge the wound in a swimming pool or bath until cleared 
at your follow up visit. 

Diet:
You may resume your regular home diet without restriction. You 
should stick to foods that do not upset your stomach. You may 
need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Activity:
You may resume all of your normal home activities, except for 
straining or lifting heavy weight. We recommend you resume 
walking, exercise, bathing, per your normal regimen. 
 
Warning signs:
You should contact our clinic or return to the ED immediately if 

you experience any of the following signs or symptoms:
Fever above 100.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 
or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for your 
postoperative appointment following your discharge from the 
hospital. 

Best Wishes,
Your ___ Care Team
 
Followup Instructions:
___